US06656934B2
Synthesis of 6-Methyl-2-(4-phenoxyphenylamino)-4H-3,1-benzoxazin-4-one
A solution of 2-amino-5-methylbenzoic acid (172 mg, 1.10 mmol) in THF (1 ml) was treated with 4-phenoxyphenyl isocyanate (241 mg, 1.10 mmol). The mixture was kept at room temperature for 24 h, during which time the solvent was allowed to evaporate to leave a pale brown solid. This was dissolved in DMF (5 ml) and added to a suspension of PS-EDC (0.8 mmol g−1, 2.8 g) in DMF (20 ml). The resulting mixture was agitated at room temperature for 18 h, after which the resin was filtered off and washed with DMF (2×5 ml). The filtrate and washings were combined and evaporated under reduced pressure. Flash column chromatography over silica (20% ethyl acetate in hexane as eluent) afforded the required compound as an off-white solid (153 mg, 40%); δH (400 MHz, DMSO-d6) 2.36 (3H, s, CH3), 6.96 (2H, d, J8, Ph), 7.04 (1H, d, J8, Ph), 7.09 (1H, t, J8, Ph), 7.26 (1H, d, J8, Ph), 7.34-7.38 (2H, m, Ph), 7.55-7.56 (1H, m, Ph), 7.76-7.78 (4H, m, Ph); m/z (ES+) 345 (MH+).

reactant | 2-amino-5-methylbenzoic acid | 1.10 mmol, 172 mg | NC1=C(C(=O)O)C=C(C=C1)C | C8H9NO2
reactant | 4-phenoxyphenyl isocyanate | 1.10 mmol, 241 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)N=C=O | C13H9NO2
reactant | EDC | 2.8 g
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 6-Methyl-2-(4-phenoxyphenylamino)-4H-3,1-benzoxazin-4-one | 153 mg, 40% | CC=1C=CC2=C(C(OC(=N2)NC2=CC=C(C=C2)OC2=CC=CC=C2)=O)C1 | C21H16N2O3
